US08455522B2
Step 2: Synthesis of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one
A suspension of 5-Bromo-3-methyl-3H-benzooxazol-2-one (6.25 g, 27.4 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (7.66 g, 30.1 mmol), potassium acetate (5.38 g, 54.8 mmol) and PdCl2(dppf).CH2Cl2 (1.12 g, 1.37 mmol) in anhydrous 1,4-dioxane (80 mL) was heated at 80° C. under nitrogen for 5 hr. After concentration, the residue was treated with CH2Cl2 (80 mL) and filtrated. The solvent was removed in vaccuo. The residue was purified by flash column (ethyl acetate in heptane, v/v, 0-100%) and yielded colorless solid (5.2 g). 1H NMR (400.3 MHz, CDCl3): δ 1.37 (s, 12H), 3.43 (s, 3H), 7.21 (d, J=8 Hz, 1H), 7.40 (s, 1H), 7.63 (dd, J=8, 1 Hz, 1H).

reactant | 5-Bromo-3-methyl-3H-benzooxazol-2-one | 27.4 mmol, 6.25 g | BrC=1C=CC2=C(N(C(O2)=O)C)C1 | C8H6BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 30.1 mmol, 7.66 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 54.8 mmol, 5.38 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 1.37 mmol, 1.12 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 5.2 g | CN1C(OC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H18BNO4
